US08114868B2
(S)-3-((S)-1-(4-(1-ethyl-5-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4, 4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one and 5-bromo-1-ethyl-3-methylpyridin-2(1H)-one following a procedure analogous to that described in Example 6 Step 1. LC-MS Method 2 tR=1.314 min, m/z=489; 1H NMR (CDCl3) 1.09 (s, 3H), 1.15 (s, 3H), 1.35 (t, 3H), 1.50 (d, 3H), 2.15-2.25 (m, 7H), 2.35 (m, 1H), 2.86 (m, 1H), 4.03 (m, 2H), 5.66 (q, 1H), 6.96 (d, 2H), 7.13 (d, 2H), 7.25-7.36 (m, 7H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4, 4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | 5-bromo-1-ethyl-3-methylpyridin-2(1H)-one | BrC=1C=C(C(N(C1)CC)=O)C | C8H10BrNO
product | (S)-3-((S)-1-(4-(1-ethyl-5-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | C(C)N1C=C(C=C(C1=O)C)C1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C30H36N2O4
